Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cc: thrombocytopenia
 
Major ___ or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ F with hx of prothrombin gene mutation, 
recurrent PE/DVT, thrombocytopenia and recent complicated 
medical course presented from rehab with thrombocytopenia found 
on routine labs. The patient had recently been discharged from 
___ on a heparin drip and labs were being checked daily. Her 
PTL count trended down slowly was found to be 9 on the day of 
transfer. The patient reports that heparin had been discontinued 
and she was maintained on warfarin. The pateint has no 
complaints at this time. States that she has some blood on the 
tissue when she blows her nose but no recent nose bleeds. No 
bleeding gums. Easy bruising, mostly related to IVs and blood 
draws. Denies blood in stool. Does have dark stool but this is 
consistent. Does report hemorrhoids. Denies chest pain, sob, 
fever, chills. Has felt weak since discharge from ___ on 
___.
Remainder of ROS was negative.

Her previous hospitalization begain after she  underwent a CCY 
at ___ on ___ for porcelain GB. Postop course was c/b 
hypotension, hemoperitoneum, hypoxia requiring intubation, ARF, 
and  elevated transaminases. She was med-flighted  from ___ 
___ to the ICU at the ___ on ___ and underwent 
an ERCP on ___ with biliary stent placement.  She stabilized 
on pressors, IVF, 4U PRBCs, empiric zosyn/vanco for HCAP +/- 
cholangitis, and ultimately was weaned from pressors, extubated 
and finished an 8-day course of abx. Her course on the medical 
floor was complicated by acute on chronic systolic heart 
failure. She was discharged to rehab and then re-presented with 
abdominal pain and low grade fevers on ___. She was admitted to 
the surgical serivce and had ___ drainiage of intrabdominal fluid 
collections. Cultures were negative and the patient was 
discharged on ___ to rehab on a heparin drip. She did undergo 
a repeat ERCP on ___ for stent removal and recieved a platelet 
transfusion at that time.
 

 
Past Medical History:
- Thrombocytopenia:  ___ BM biopsy with erythroid 
hyperplasia and granulocytic hypoplasia
- Systolic CHF- ECHO on ___- EF 40% 
- History of DVT/PE on coumadin
- Rectal bleeding: ___ tx'd DDAVP
- Prothrombin gene mutation
- Hypothryoidism
- Fe deficiency Anemia 
- Porcelain gallbladder now s/p cholecystectomy ___
- Hyperlipidemia
- HTN
- s/p exploratory laparoscopy ___
- s/p tubal ligation ___
- osteoarthritis
 
Social History:
___
Family History:
Father (deceased) colon ca, Mother (deceased) liver ca, one 
brother treated for colon ca. 
 
Physical Exam:
ADMISSION:
Laying in bed in NAD.
Vitals: T: 97 HR: 96 R: 18 BP: 134/75 O2 93% RA
HEENT: + white plaque on tongue, no petecchia, no LAD
Lungs: clear B/L on auscultation
___: RRR, S1, S2 present
Abd: Soft, NT, ND
Ext: no edema, Right UE Midline
Skin: multiple bruises in various stages of healing covering all 
4 extremites.
Neuro: AAOX3

DISCHARGE:
Vitals: T: 97 HR: 96 R: 18 BP: 134/75 O2 93% RA
GEN:
HEENT: + white plaque on tongue, no petecchia, no LAD
Lungs: clear B/L on auscultation
___: RRR, S1, S2 present
Abd: Soft, NT, ND
Ext: no edema, Right UE Midline
Skin: multiple bruises in various stages of healing covering all 
4 extremites.
Neuro: AAOX3
 
Pertinent Results:
___ 10:00PM   GLUCOSE-117* UREA N-14 CREAT-0.6 SODIUM-135 
POTASSIUM-4.3 CHLORIDE-99 TOTAL CO2-23 ANION GAP-17
___ 10:00PM   CALCIUM-8.7 PHOSPHATE-3.8# MAGNESIUM-1.9
___ 10:00PM   WBC-5.6 RBC-4.34# HGB-12.8# HCT-39.7# MCV-91 
MCH-29.5 MCHC-32.3 RDW-15.9*
___ 10:00PM   NEUTS-45* BANDS-0 ___ MONOS-6 EOS-5* 
BASOS-0 ATYPS-2* ___ MYELOS-0
___ 10:00PM   HYPOCHROM-1+ ANISOCYT-1+ POIKILOCY-1+ 
MACROCYT-OCCASIONAL MICROCYT-OCCASIONAL POLYCHROM-NORMAL 
TARGET-OCCASIONAL TEARDROP-OCCASIONAL
___ 10:00PM   PLT SMR-RARE PLT COUNT-18*
___ 10:00PM   ___ PTT-38.0* ___

LUE Duplex IMPRESSION:  Superficial thrombophlebitis involving 
the left basilic vein.

___ 7:36 pm CATHETER TIP-IV      Source: L mid-line. 
WOUND CULTURE (Preliminary):    No significant growth. 

___ 06:40AM BLOOD WBC-4.8 RBC-4.18* Hgb-12.1 Hct-37.1 
MCV-89 MCH-28.8 MCHC-32.5 RDW-16.2* Plt Ct-16*
 
Brief Hospital Course:
___ y/o female with history of prothrombin gene mutation, 
multiple DVT/PE on coumadin and thrombocytopenia likely due to 
MDS who presented with thrombocytopenia found on routine blood 
work and GUAIAC positive stool.

Thromboctopenia: No evidence of acute bleeding. PTL here were 18 
and 9 at ___. Coumadin held. Case discussed with primary 
hematologist who recommended there is no need to transfuse if 
patient is not bleeding and platelets are greater than 3. On the 
day of discharge platelet count was 16.

GUAIAC positive dark stool: concern for GIB in ED, but has 
hemorrhoids, hemodynamically stable. H/H above baseline and 
remained stable during admission. Sx likely hemorrhoidal in 
setting of low PTL and therapeutic INR.

DVT/PE on coumadin: will resume coumadin when PTL>25. No need to 
reverse INR

Thrombophlebitis: found at site of midline PICC. Line removed, 
tip cultured. Results pending.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Captopril 12.5 mg PO TID 
2. Docusate Sodium 100 mg PO BID 
3. Levothyroxine Sodium 75 mcg PO DAILY 
4. Pravastatin 20 mg PO HS 
5. Tucks Hemorrhoidal Oint 1% 1 Appl PR TID PRN hemorrhoids 
6. Vitamin D 400 UNIT PO DAILY 
7. Senna 1 TAB PO HS Constipation 
8. Multivitamins 1 TAB PO DAILY 
9. Warfarin ___ mg PO DAILY16 
10. Acetaminophen 650 mg PO Q8H pain 
11. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
12. Ferrous Sulfate 325 mg PO BID 
13. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
14. Nystatin Oral Suspension 5 mL PO QID 
15. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN pain 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q8H pain 
2. Captopril 12.5 mg PO TID 
3. Docusate Sodium 100 mg PO BID 
4. Ferrous Sulfate 325 mg PO BID 
5. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
6. Levothyroxine Sodium 75 mcg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Nystatin Oral Suspension 5 mL PO QID 
9. Pravastatin 20 mg PO HS 
10. Senna 1 TAB PO HS Constipation 
11. Tucks Hemorrhoidal Oint 1% 1 Appl PR TID PRN hemorrhoids 
12. Vitamin D 400 UNIT PO DAILY 
13. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
14. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN pain 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Thrombocytopenia
Phlebitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted due to a low platelet count. On repeat testing 
your platelet count was slightly higher. On discussion with your 
hematologist it was decided that there was no need to transfuse 
platelets as you were not bleeding.
There was also concern that you might be bleeding from your 
colon however your blood counts remained stable. The trace 
amount of blood found in your stool is most likely due to 
hemorrhoids and the dark color of your stool is due to the iron 
pills you take. 
Also during your stay the site of your mid-line PICC became 
painful. It was removed and the catheter was cultured to look 
for infection. Those results remain pending at the time of 
discharge but the preliminary results are negative.
 
Followup Instructions:
___